US04111940
(f) 4-Chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol
20.2 g. of 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one (0.065 mol.) and 13 g. of triethylamine (0.13 mol.), dissolved in 400 ml. of ethyl acetate and 75 ml. of absolute ethanol, are catalytically hydrogenated in the presence of 2 g. of palladium on charcoal (10%) at room temperature. In about 6 hours, the theoretical amount of hydrogen is absorbed. The catalyst is then filtered off, the filtrate evaporated in vacuo and the residue extracted with 200 ml. of ether. The ethereal extract is washed with water, dried with Na2SO4 and the ether removed. The resulting material is recrystallized from petroleum ether (60°-70°) to yield 12.7 g. (62.5%) of 4-chloro-1-ethyl-1,5,6,11-tetrahydro[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol; m.p. 128°-130°.

reactant | 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | 0.065 mol | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C17H14ClN3O
reactant | triethylamine | 0.13 mol | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-Chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-ol | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)O | C17H16ClN3O
